US04336378
A mixture of 11.2 g. (0.036 mole) of 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetyl chloride in 100 ml. of tetrahydrofuran is added to a vigorously stirred solution of dimethylamine in water (25 ml. 40% dimethylamine in water) at 0° to 10° C. The resulting mixture is allowed to warm to room temperature and poured into ether-water. The organic layer is separated, dried over anhydrous magnesium sulfate, filtered and evaporated to give N,N-dimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetamide; m.p. 176° to 178° C.

reactant | 2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetyl chloride | 0.036 mole | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1CC(=O)Cl)C | C16H15ClN2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dimethylamine | CNC | C2H7N
solvent | water | 25 ml | O | H2O
product | N,N-dimethyl-2-(3-ethyl-5-methyl-4-isoxazolyl)-3-indole acetamide | CN(C(CC1=C(NC2=CC=CC=C12)C=1C(=NOC1C)CC)=O)C | C18H21N3O2
